US05019492
The crude dimethylated ester (64 g, approx. 0.4 mole), NaOH (48 g, 1.2 mole), water (320 ml), and a trace of indicator dye (Metanil Yellow) were stirred for 18 hours until a homogeneous solution resulted. Residual alkali-insoluble material was removed by washing with a small amount of ether. The alkaline solution was then cooled in ice water and neutralized carefully with concentrated HCl (approx. 100 ml) until the indicator dye turned purple. Saturated NaCl was added to the cold solution before extracting several times with methylene chloride. The extracts were dried over sodium sulfate, filtered and concentrated at 30° C. to yield the crude acid as an oil (50 g) (the acid solidifies at ice temperatures). The nmr spectrum showed that a small amount of ethanol was present in the crude acid. In order to avoid excessive decarboxylation, the acid was used immediately by reacting with oxalyl chloride (75 ml, 0.86 mole) and a trace of triethylamine at room temperature for 24 hours. The mixture was concentrated at 30° C. using a rotary evaporator with water aspirator vacuum. Excess oxalyl chloride was removed by codistillation with methylene chloride to yield crude 2,2-dimethyl-3-oxobutyryl chloride (49 g, 82%). A portion of the crude (45 g) was distilled through a six inch Vigreaux column under water aspirator vacuum (bp 50°-55° C.) to yield purified colorless product (30 g, 67%). A small amount of impurity containing an ethoxy group distilled with the later fractions of product. This impurity could be avoided by complete removal of ethanol prior to acid chloride formation.

reactant | NaOH | 1.2 mole, 48 g | [OH-].[Na+]
reactant | water | 320 ml | O | H2O
reactant | Metanil Yellow | C1=CC=C(C=C1)NC2=CC=C(C=C2)N=NC3=CC(=CC=C3)S(=O)(=O)[O-].[Na+]
reactant | oxalyl chloride | 0.86 mole, 75 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 2,2-dimethyl-3-oxobutyryl chloride | 49 g, 82% | CC(C(=O)Cl)(C(C)=O)C | C6H9ClO2
